US04306065
1-(2-Methoxyphenoxy)-3-[(2-phenyl-4-quinazolinyl)amino]-2-propanol, Monohydrate.
A mixture containing 5.8 g (0.025 mole) of 1-amino-3-ortho-methoxyphenoxy 2-propanol hydrochloride, 6 g (0.025 mole) of 2-phenyl-4-chloroquinazoline, 150 ml of methanol, 1.0 g of sodium hydroxide (in one ml of water) was refluxed for 6 hrs. Another one gram of sodium hydroxide (in one ml of water) was added and refluxing was continued for 2 hrs. The resulting reaction mixture was cooled to room temperature and filtered. The gummy substance which as obtained when the filtrate was mixed with 300 ml of water was separated, washed with water, then dissolved in acetone. The acetone solution was treated with one ml of 12 N hydrochloric acid and the white crystalline precipitate was separated, dissolved in water, adjusted to pH=7.5. A white crystalline solid was obtained. This crystalline solid was recrystallized with methanol and water to give 1.5 g of the title compound, m.p. 138°-140° C.

reactant | 1-amino-3-ortho-methoxyphenoxy 2-propanol hydrochloride | 0.025 mole, 5.8 g | Cl.NCC(COC1=C(C=CC=C1)OC)O
reactant | 2-phenyl-4-chloroquinazoline | 0.025 mole, 6 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)Cl | C14H9ClN2
reactant | methanol | 150 ml | CO | CH4O
reactant | sodium hydroxide | one ml, 1.0 g | [OH-].[Na+]
reactant | sodium hydroxide | one ml, one gram | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | 1-(2-Methoxyphenoxy)-3-[(2-phenyl-4-quinazolinyl)amino]-2-propanol, Monohydrate | 1.5 g | O.COC1=C(OCC(CNC2=NC(=NC3=CC=CC=C23)C2=CC=CC=C2)O)C=CC=C1 | InChI=1S/C24H23N3O3.H2O/c1-29-21-13-7-8-14-22(21)30-16-18(28)15-25-24-19-11-5-6-12-20(19)26-23(27-24)17-9-3-2-4-10-17;/h2-14,18,28H,15-16H2,1H3,(H,25,26,27);1H2
